US07074798B2
b) 2,2-Dimethylpropionic acid [7-benzyl-1-methyl-2,6-dioxo-1,2,6,7-tetrahydropurin-3-yl]methyl ester
2,2-Dimethylpropionic Acid [7-benzyl-2,6-dioxo-1,2,6,7-tetrahydropurin-3-yl]methyl ester (2.66 g) was dissolved in N,N-dimethylformamide (30 ml), potassium carbonate (1.6 g) and iodomethane (1 ml) were added to the solution, and the mixture was stirred at room temperature overnight. The reaction mixture was diluted with ethyl acetate, and washed with water and 1N hydrochloric acid. The organic layer was dried over anhydrous magnesium sulfate and filtered. Then, the solvent was removed by distillation. The residue was triturated with toluene to give 2.16 g of the title compound.

reactant | 2,2-Dimethylpropionic Acid [7-benzyl-2,6-dioxo-1,2,6,7-tetrahydropurin-3-yl]methyl ester | 2.66 g | C(C1=CC=CC=C1)N1C=NC=2N(C(NC(C12)=O)=O)COC(C(C)(C)C)=O | C18H20N4O4
reactant | potassium carbonate | 1.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 1 ml | IC | CH3I
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2,2-Dimethylpropionic acid [7-benzyl-1-methyl-2,6-dioxo-1,2,6,7-tetrahydropurin-3-yl]methyl ester | 2.16 g | C(C1=CC=CC=C1)N1C=NC=2N(C(N(C(C12)=O)C)=O)COC(C(C)(C)C)=O | C19H22N4O4
